US07507835B2
Description 1: General Procedure for the Preparation of Monoperphthalic Acid (D 1)
To the mixture containing phthalic anhydride (2.22 g, 0.015 mole) and diethyl ether (25 mL), hydrogen peroxide solution (3.4 g; 0.03 moles; as 30% aqueous solution) was added and the reaction mixture was stirred at 25° C. to dissolve the anhydride. The reaction mixture was transferred to a separating funnel, ether layer was separated and aqueous layer was extracted with ether (3×10 mL). Combined ether extracts are dried over sodium sulfate and this solution of monoperphthalic acid was used.

reactant | phthalic anhydride | 0.015 mole, 2.22 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | hydrogen peroxide | 0.03 moles, 3.4 g | OO | H2O2
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | Monoperphthalic Acid | C1=CC=C(C(=C1)C(=O)O)C(=O)OO | C8H6O5
